US04831032
2-Amino-6-(4-pyridyl)-1,5-dihydrobenzo[1,2-d:4,5-d']diimidazole
2.9 g. 5,6-diamino-2-(4-pyridyl)-benzimidazole and 1.3 g. cyanogen bromide are stirred for 2 hours at 85° C. with the exclusion of moisture. After cooling to ambient temperature, the reaction mixture is treated with active charcoal, filtered and the filtrate evaporated to dryness. The residue is suspended in water, the pH value is adjusted to 8.5 with aqueous ammonia solution and filtered off with suction. The 1.47 g. of residue obtained is applied to 15 g. silica gel 60 and eluted with a mixture of methylene chloride and ammoniacal methanol (95:5 v/v to 92:8 v/v). The appropriate fractions are evaporated to dryness and the residue is dissolved in methanol. Isopropanol is added thereto until turbid and then left to crystallise. There is obtained 0.52 g. of the desired compound; m.p. >320° C.

reactant | 5,6-diamino-2-(4-pyridyl)-benzimidazole | NC1=CC2=C(N=C(N2)C2=CC=NC=C2)C=C1N | C12H11N5
reactant | cyanogen bromide | N#CBr | CBrN
reactant | charcoal | C | CH4
product | 2-Amino-6-(4-pyridyl)-1,5-dihydrobenzo[1,2-d:4,5-d']diimidazole | NC=1NC2=C(N1)C=C1C(N=C(N1)C1=CC=NC=C1)=C2 | C13H10N6
